US05783586
To a solution of 4-(2-quinolylmethoxy)phenyl ketone (0.520 g, 1.05 mmol) in anhydrous THF (10 mL) at -78° C. phenyl lithium (0.873 mL, 1.57 mmol) was added and the reaction mixture was allowed to warm to room temperature. Water was then added to the reaction mixture and the product was extracted with EtOAc (233 ). The organic layer was washed with water, brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was triturated with Et2O to give 400 mg of (bis(4-(2-quinolylmethoxy)phenyl)-phenyl)methanol as a cream solid.

reactant | 4-(2-quinolylmethoxy)phenyl ketone | 1.05 mmol, 0.520 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C33H24N2O3
reactant | phenyl lithium | 1.57 mmol, 0.873 mL | C1(=CC=CC=C1)[Li]
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (bis(4-(2-quinolylmethoxy)phenyl)-phenyl)methanol | 400 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C=1C(=C(C=CC1)CO)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C39H30N2O3
